US07071216B2
To a solution of 1-(4-nitrophenyl)ethan-1-one (1 eq) and phenylmethylamine (1 eq) in methanol was added sodiumtriacetoxyborohydride (1.2 eq). The resulting mixture was stirred at ambient temperature for 16 h. The mixture was concentrated and partitioned between ethyl acetate and water. The organic layer was concentrated and preparative purification yielded [(4-nitrophenyl)ethyl]benzylamine. MS: MH+=256.

reactant | 1-(4-nitrophenyl)ethan-1-one | 1 eq | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
reactant | phenylmethylamine | 1 eq | C1(=CC=CC=C1)CN | C7H9N
reactant | sodiumtriacetoxyborohydride | 1.2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | CO | CH4O
product | [(4-nitrophenyl)ethyl]benzylamine | [N+](=O)([O-])C1=CC=C(C=C1)CCNCC1=CC=CC=C1 | C15H16N2O2
